US09238646B2
A mixture of N-(5-(4-acetylpiperazin-1-yl)pyridin-2-yl)-2-(3-chloro-4-cyanophenyl)acetamide as solid 237-3 (17 mg, 0.043 mmol), 2-methyl-4-(tributylstannyl)pyridine (24.5 mg, 0.064 mmol), Pd(PPh3)4 (5 mg, 0.0043 mmol) in DMF (0.6 ml) was stirred at 118° C. under argon overnight. After cooled to room temperature, it was filtered through celite while washed and diluted with ethyl acetate (30 ml). Then it was washed with water (40 ml) and extected with 0.5 N HCl (30 ml). After the aqueous extraction was treated with Na2CO3 to have the pH adjusted to around 9, the aqueous phase was extracted with ethyl acetate (30 ml×2). The combined organic phases were dried over Na2SO4, concentrated by rotary evaporation and the residue subjected to silica gel column chromatography with MeOH in ethyl acetate (0 to 5%) as eluent to give N-(5-(4-acetylpiperazin-1-yl)pyridin-2-yl)-2-(4-cyano-3-(2-methylpyridin-4-yl)phenyl)acetamide as solid 237. MS m/z 455.2 (M+1); 1H NMR 400 MHz (CDCl3) δ 8.62 (d, 1 H), 8.08 (d, 1 H), 8.02 (bs, 1 H), 7.91 (d, 1 H), 7.79 (d, 1 H), 7.53-7.47 (m, 2 H), 7.34 (bs, 1 H), 7.31-7.26 (m, 2 H), 3.82 (s, 2 H), 3.80-3.75 (m, 2 H), 3.65-3.60 (m, 2 H), 3.16-3.08 (m, 4 H), 2.64 (s, 3 H), 2.14 (s, 3 H).

reactant | N-(5-(4-acetylpiperazin-1-yl)pyridin-2-yl)-2-(3-chloro-4-cyanophenyl)acetamide | C(C)(=O)N1CCN(CC1)C=1C=CC(=NC1)NC(CC1=CC(=C(C=C1)C#N)Cl)=O | C20H20ClN5O2
reactant | 2-methyl-4-(tributylstannyl)pyridine | 0.064 mmol, 24.5 mg | CC1=NC=CC(=C1)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 0.6 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0043 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(5-(4-acetylpiperazin-1-yl)pyridin-2-yl)-2-(4-cyano-3-(2-methylpyridin-4-yl)phenyl)acetamide | C(C)(=O)N1CCN(CC1)C=1C=CC(=NC1)NC(CC1=CC(=C(C=C1)C#N)C1=CC(=NC=C1)C)=O | C26H26N6O2
